US08008307B2
Step b: 1-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-naphthyl]pyrrolidine
To a solution of 1-(4-bromo-1-naphthyl)pyrrolidine (400 mg, 0.001 mol), bis(pinacolato)diboron (0.40 g, 0.0016 mol), potassium acetate (0.43 g, 0.0043 mol) in N,N-Dimethylformamide (8 mL, 0.1 mol) was added Tetrakis(triphenylphosphine)palladium(0) (0.050 g, 0.000043 mol), and the mixture was heated at 100° C. overnight. The reaction was cooled, quenched by addition of water and the mixture was extracted with diethyl ether, washed with water, brine, dried (Na2SO4), filtered and concentrated. The residue was purified by flash chromatography (0 to 25% DCM/hexanes) to obtain 221 mg (50%). Reference: Miyashita, K.; Sakai, T.; Imanishi, T. Org. Lett. 2003, 5, 2683-2686.

reactant | 1-(4-bromo-1-naphthyl)pyrrolidine | 0.001 mol, 400 mg | BrC1=CC=C(C2=CC=CC=C12)N1CCCC1 | C14H14BrN
reactant | bis(pinacolato)diboron | 0.0016 mol, 0.40 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 0.0043 mol, 0.43 g | C(C)(=O)[O-].[K+]
reactant | N,N-Dimethylformamide | 0.1 mol, 8 mL | CN(C=O)C | C3H7NO
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.000043 mol, 0.050 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-naphthyl]pyrrolidine | CC1(OB(OC1(C)C)C1=CC=C(C2=CC=CC=C12)N1CCCC1)C | C20H26BNO2
